US06403610B1
A mixture of 0.54 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(3-fluorophenylthio)ethyl]piperidine-3-carboxylate in 4 cm3 of methanol and 0.8 cm3 of 5N aqueous sodium hydroxide was heated with stirring at 60° C. for 20 hours. After evaporating the solvents under reduced pressure (5 kPa) at a temperature in the region of 40° C. the residue obtained was taken up in 10 cm3 of water and then acidified with 0.4 cm3 of concentrated hydrochloric acid. The solution was evaporated under the same conditions and then the residue obtained was triturated in a dichloromethane/methanol (90/10 by volume) mixture. The insoluble material was filtered off and washed with 5 cm3 of dichloromethane. The filtrate was dried over sodium sulfate and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue was triturated in 10 cm3 of diisopropyl ether and then 1 cm3 of a 5N solution of hydrochloric acid in diisopropyl ether was added with stirring. The crystals were separated by filtration and then washed with 2 times 5 cm3 of diisopropyl ether. After drying in the air, 0.45 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(3-fluorophenylthio) ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of an amorphous solid with a pale yellow color which melts in the region of 140° C. with softening.

reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(3-fluorophenylthio)ethyl]piperidine-3-carboxylate | 0.54 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=CC(=CC=C1)F)C(=O)OC | C28H33FN2O3S
reactant | hydrochloric acid | 0.4 cm3 | Cl | ClH
solvent | methanol | 4 cm3 | CO | CH4O
solvent | sodium hydroxide | 5N, 0.8 cm3 | [OH-].[Na+]
solvent | water | 10 cm3 | O | H2O
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(3-fluorophenylthio) ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.45 g | Cl.Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=CC(=CC=C1)F)C(=O)O | InChI=1S/C27H31FN2O3S.2ClH/c1-33-22-8-9-26-24(17-22)19(10-12-29-26)4-2-5-20-11-13-30(18-25(20)27(31)32)14-15-34-23-7-3-6-21(28)16-23;;/h3,6-10,12,16-17,20,25H,2,4-5,11,13-15,18H2,1H3,(H,31,32);2*1H/t20-,25+;;/m1../s1
